US05932601
In substantially the same manner as in Reference Example 58, methyl 3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]cinnamate was subjected to reduction reaction with diisobutylaluminum hydride to yield (E)-3-(3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]-2-propen-1-ol. The product was recrystallized from ethyl acetate-hexane to give colorless needles, m.p.80-81° C.

reactant | methyl 3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]cinnamate | FC=1C=C(C=CC(=O)OC)C=CC1OCCN(C1=NC=CC=C1)C | C18H19FN2O3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (E)-3-(3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]-2-propen-1-ol | FC=1C=C(C=CC1OCCN(C1=NC=CC=C1)C)/C=C/CO | C17H19FN2O2
